US06335353B1
1-Ethyl-2-methoxymethyl-3-benzyloxy-pyridin-4(1H)-one
To a solution of 2-methoxymethyl-3-benzyloxy-pyran-4(1H)-one (2.46 g, 10 mmol, 1 eq.) in ethanol (10 ml)/water (10 ml) was added 1.93 g (30 mmol, 3 eq.) of 70% aqueous ethylamine followed by 2N sodium hydroxide solution until pH 13 was obtained. The reaction mixture was sealed in a thick-walled glass tube and stirred at 70° C. overnight. After adjustment to pH 1 with concentrated hydrochloric acid, the solvent was removed by rotary evaporation prior to addition of water (50 ml) and washing with diethyl ether (3×50 ml). Subsequent adjustment of the aqueous fraction to pH 7 with 10N sodium hydroxide solution was followed by extraction into dichloromethane (4×50 ml), the combined organic layers then being dried over anhydrous sodium sulphate, filtered and the solvent removed in vacuo. The residue was purified by column chromatography on silica gel (eluant: 15% CH3OH/85% CHCl3) to afford the title compound (2.05 g, 75.1 %) as a yellow oil.

reactant | 2-methoxymethyl-3-benzyloxy-pyran-4(1H)-one | 10 mmol, 2.46 g, 1 eq. | COCC=1OC=CC(C1OCC1=CC=CC=C1)=O | C14H14O4
reactant | water | 10 ml | O | H2O
reactant | ethylamine | 30 mmol, 1.93 g, 3 eq. | C(C)N | C2H7N
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-Ethyl-2-methoxymethyl-3-benzyloxy-pyridin-4(1H)-one | 2.05 g, 75.1 % | C(C)N1C(=C(C(C=C1)=O)OCC1=CC=CC=C1)COC | C16H19NO3
